US05705499
c) 2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-[trans-2-(2-methylpyrid-4-yl)ethen-1-yl]-6H -dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
By a procedure analogous to that described in Example 51b, 48 mg (0.15 mmol) of 2-chloro-5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one coupled with 4-bromo-2-picoline (31 mg, 0.15 mmol) to provide 51 mg (83%) of the title compound.

reactant | 2-chloro-5,11-dihydro-11-ethyl-8-ethynyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.15 mmol, 48 mg | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)C#C)=O)C | C16H13ClN4O
reactant | 4-bromo-2-picoline | 0.15 mmol, 31 mg | BrC1=CC(=NC=C1)C | C6H6BrN
product | 2-Chloro-5,11-dihydro-11-ethyl-5-methyl-8-[trans-2-(2-methylpyrid-4-yl)ethen-1-yl]-6H -dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 51 mg, 83% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)\C=C\C3=CC(=NC=C3)C)=O)C | C22H20ClN5O
